US06174884B1
6-(3-Chloro-4-methoxy-benzyl)-1-(3-nonyl)-3-methyl-1,5-dihydro-pyrazolo[3,4-d]pyrimidin-4-one
13 mg (0.050 mmol) of 5-amino-3-methyl-1-(3-nonyl)-1H-pyrazole-4-carboxamide and 53 mg (0.248 mmol) of methyl 3-chloro-4-methoxyphenylacetate are refluxed for 6 hours in 0.5 ml of a 0.5M ethanolic sodium ethoxide solution. After dichloromethane and saturated aqueous sodium hydrogen carbonate solution have been added, the phases are separated. Purification by chromatography gives 10 mg (47%) of a solid, Rf=0.265 (dichloromethane/methanol=15:1).

reactant | 5-amino-3-methyl-1-(3-nonyl)-1H-pyrazole-4-carboxamide | 0.050 mmol, 13 mg | NC1=C(C(=NN1C(CC)CCCCCC)C)C(=O)N | C14H26N4O
reactant | methyl 3-chloro-4-methoxyphenylacetate | 0.248 mmol, 53 mg | ClC=1C=C(C=CC1OC)CC(=O)OC | C10H11ClO3
reactant | sodium ethoxide | 0.5M | [O-]CC.[Na+]
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
solvent | dichloromethane | ClCCl | CH2Cl2
product | 6-(3-Chloro-4-methoxy-benzyl)-1-(3-nonyl)-3-methyl-1,5-dihydro-pyrazolo[3,4-d]pyrimidin-4-one | 10 mg, 47% | ClC=1C=C(CC=2NC(C3=C(N2)N(N=C3C)C(CC)CCCCCC)=O)C=CC1OC | C23H31ClN4O2
